US08258131B2
(1) Preparation of 7-chloro-3-(1-ethoxyvinyl)-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen
A mixture of 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen (a compound obtained in Reference Example 8(1); 220 mg) and tributyl(vinyl)tin (405 μL) were treated in the same manner as Reference Example 11(1) to give the titled compound (144 mg) as a pale yellow powder.

reactant | 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen | BrC=1C(OC2=CC(=CC=C2C1C1=CC=C(C=C1)F)Cl)(C)C | C17H13BrClFO
solvent | tributyl(vinyl)tin | 405 μL | C(CCC)[Sn](C=C)(CCCC)CCCC
product | 7-chloro-3-(1-ethoxyvinyl)-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen | 144 mg | ClC1=CC=C2C(=C(C(OC2=C1)(C)C)C(=C)OCC)C1=CC=C(C=C1)F | C21H20ClFO2
